data/oMe_Silver.jsonl
{"reaction_id": "NR-111_1-C(F)(F)F_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-C(F)(F)F_4-c1ccccc1_5-c1ccccc1_6-C(F)(F)F_7-CCCC(C)C","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(c1ccccc1)c1ccccc1)(C(F)(F)F)C(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[Si](C)(C)C","C(=O)(C(F)(F)F)CCCC(C)C","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(c1ccccc1)c1ccccc1)(C(F)(F)F)C(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(C(F)(F)F)CCCC(C)C"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(C(F)(F)F)CCCC(C)C","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[C+](C(F)(F)F)C(c1ccccc1)(c1ccccc1)C(O[Ti](Cl)(Cl)Cl)(C(F)(F)F)CCCC(C)C","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(c1ccccc1)c1ccccc1)(C(F)(F)F)C(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O[Ti](Cl)(Cl)Cl)(C(F)(F)F)CCCC(C)C","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(c1ccccc1)c1ccccc1)(C(F)(F)F)C(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(C(F)(F)F)CCCC(C)C","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
{"reaction_id": "NR-052_1-CC_2-CCCC(C)C_3-CC","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(CC)(CCCC(C)C)(CC)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(CC)(CCCC(C)C)(CC)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC)(CCCC(C)C)(CC)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
